US07129235B2
8-(3-chloro-2-pyridinyl)-3,8-diazabicyclo[3.2.1]octane
tert-Butyl 8-(3-chloro-2-pyridinyl)-3,8-diazabicyclo[3.2.1]octane-3-carboxylate (285 mg, 880 μmol) in dry dichloromethane (2 mL) was treated with trifluoroacetic acid (2 mL). After stirring at ambient temperature for 30 minutes, the mixture was concentrated under reduced pressure and the residue was treated with 1N sodium hydroxide solution. The mixture was extracted with ethyl acetate and the organic phase was concentrated under reduced pressure to provide the title compound. MS (DCI/NH3) m/z: 224 (M+H)+; 1H NMR (CDCl3) δ 1.87 (m, 2H), 1.97 (m, 2H), 2.75 (dd, 2H), 3.24 (dd, 2H), 4.44 (dd, 2H), 6.73 (dd, 1H), 7.54 (dd, 1H), 8.08 (dd, 1H).

reactant | tert-Butyl 8-(3-chloro-2-pyridinyl)-3,8-diazabicyclo[3.2.1]octane-3-carboxylate | 880 μmol, 285 mg | ClC=1C(=NC=CC1)N1C2CN(CC1CC2)C(=O)OC(C)(C)C | C16H22ClN3O2
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 8-(3-chloro-2-pyridinyl)-3,8-diazabicyclo[3.2.1]octane | ClC=1C(=NC=CC1)N1C2CNCC1CC2 | C11H14ClN3
